US08623885B2
Synthesis of 9-cyclopentyl-N-(5,6,7,8-tetrahydro-1,6-naphthyridin-2-yl)-9H-pyrido[4′,3′:4,5]pyrrolo[2,3-d]pyrimidin-2-amine (21)
A solution of tert-butyl 2-((9-cyclopentyl-9H-pyrido[4′,3′:4,5]pyrrolo[2,3-d]pyrimidin-2-yl)amino)-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate (217 mg, 0.477 mmol) in TFA/DCM (1:1, 2 mL) was stirred at room temperature for 30 minutes and then concentrated. The residue was purified by flash chromatography on silica gel eluting with 25% to 75% solvent A (DCM:MeOH:NH4OH, 100:10:1) in DCM to give the title compound as a yellow solid (148 mg, 86% yield). 1H NMR (500 MHz, CDCl3) δ 1.87-1.90 (2H, m), 2.14-2.21 (4H, m), 2.43-2.47 (2H, m), 2.89 (2H, t, J=5.0 Hz), 3.26 (2H, t, J=5.0 Hz), 4.02 (2H, s), 5.36 (1H, m), 7.41 (1H, d, J=10.0 Hz), 7.85 (1H, d, J=5.0 Hz), 8.19 (1H, br. s), 8.31 (1H, d, J=10.0 Hz), 8.52 (1H, d, J=5.0 Hz), 8.91 (1H, s), 9.11 (1H, s) ppm; LCMS m/z: 386 (M+1).

reactant | tert-butyl 2-((9-cyclopentyl-9H-pyrido[4′,3′:4,5]pyrrolo[2,3-d]pyrimidin-2-yl)amino)-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate | 0.477 mmol, 217 mg | C1(CCCC1)N1C2=C(C3=C1N=C(N=C3)NC3=NC=1CCN(CC1C=C3)C(=O)OC(C)(C)C)C=CN=C2 | C27H31N7O2
solvent | TFA DCM | 2 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 9-cyclopentyl-N-(5,6,7,8-tetrahydro-1,6-naphthyridin-2-yl)-9H-pyrido[4′,3′:4,5]pyrrolo[2,3-d]pyrimidin-2-amine | 148 mg, 86% yield | C1(CCCC1)N1C2=C(C3=C1N=C(N=C3)NC3=NC=1CCNCC1C=C3)C=CN=C2 | C22H23N7
